US08168635B2
4-(5′-Fluoro-2′-methoxyphenyl)butyraldehyde:
To a solution of ethyl-4-(5′-fluoro-2′-methoxyphenyl)butyrate (2.25 g, 9.4 mmol) in dry toluene (30 mL) under Ar(g) was added DIBAL solution (1 M in toluene, 11 mL, 11 mmol) at −78° C. Then the reaction was stirred at this temperature for 2 h. Methanol (2 mL) was then added to the reaction mixture and the reaction was allowed to warm to 0° C. The reaction mixture was poured into a separatory funnel containing HCl solution (1 N, 100 mL). The organic function was extracted with ethyl acetate (3×60 mL) and the combined organic layers were washed with brine (80 mL) and dried over sodium sulfate. The crude product that obtained by removal of the solvent in vacuo was purified by flash column chromatography (10% EtOAc in hexane, Rf=0.10) to give the product (1.30 g, 70%).

reactant | ethyl-4-(5′-fluoro-2′-methoxyphenyl)butyrate | 9.4 mmol, 2.25 g | C(C)OC(CCCC1=C(C=CC(=C1)F)OC)=O | C13H17FO3
reactant | DIBAL | 11 mmol, 1 M, 11 mL | CC(C)C[AlH]CC(C)C
reactant | Methanol | 2 mL | CO | CH4O
reactant | HCl | 1 N, 100 mL | Cl | ClH
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(5′-Fluoro-2′-methoxyphenyl)butyraldehyde | 1.30 g, 70% | FC=1C=CC(=C(C1)CCCC=O)OC | C11H13FO2
